* NGSPICE file created from sky130_latch_precharge_wide_input_medium_feedback_tail_active_load_flat.ext - technology: sky130A

.subckt sky130_latch_precharge_wide_input_medium_feedback_tail_active_load_flat out_p
+ out_n sense_p sense_n tail reset vdd vss eval
X0 out_n out_p tail VSUBS sky130_fd_pr__nfet_01v8 ad=3.24 pd=7.8 as=3 ps=7.4 w=1.2 l=0.8
X1 out_n out_p vdd_active vdd_active sky130_fd_pr__pfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X2 out_p sense_p tail VSUBS sky130_fd_pr__nfet_01v8 ad=16.8 pd=17.6 as=15.6 ps=17.2 w=6 l=0.6
X3 out_n sense_n tail VSUBS sky130_fd_pr__nfet_01v8 ad=16.8 pd=17.6 as=15.6 ps=17.2 w=6 l=0.6
X4 out_n reset vdd w_12400_300# sky130_fd_pr__pfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X5 tail eval vss VSUBS sky130_fd_pr__nfet_01v8 ad=16.8 pd=17.6 as=15.6 ps=17.2 w=6 l=0.6
X6 out_p out_n vdd_active vdd_active sky130_fd_pr__pfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X7 out_p out_n tail VSUBS sky130_fd_pr__nfet_01v8 ad=3.24 pd=7.8 as=3 ps=7.4 w=1.2 l=0.8
X8 out_p reset vdd w_12400_300# sky130_fd_pr__pfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
C0 tail sense_p 0.19338f
C1 out_n vdd_active 5.52673f
C2 out_n tail 2.51903f
C3 vdd reset 0.20878f
C4 out_p reset 0.07615f
C5 eval tail 0.09415f
C6 vss out_n 0.06009f
C7 tail sense_n 0.19827f
C8 out_n w_12400_300# 0.70572f
C9 vss eval 0.04634f
C10 out_p vdd_active 4.31746f
C11 out_p tail 3.57449f
C12 vss out_p 0.1661f
C13 vdd w_12400_300# 1.53672f
C14 eval out_n 0.02298f
C15 out_p w_12400_300# 0.76428f
C16 out_n sense_n 0.06074f
C17 vdd out_n 0.07263f
C18 out_p sense_p 0.05301f
C19 out_p out_n 1.94622f
C20 reset w_12400_300# 4.03573f
C21 eval out_p 0.04062f
C22 out_n reset 0.05967f
C23 vss tail 0.19272f
C24 out_p sense_n 0.00703f
C25 vdd out_p 0.28588f
C26 vdd VSUBS 0.90789f
C27 tail VSUBS 18.09257f
C28 vss VSUBS 0.75002f
C29 out_p VSUBS 12.94029f
C30 w_12400_300# VSUBS 30f
C31 vdd_active VSUBS 57.97213f
.ends

