* NGSPICE file created from sky130_latch_precharge_wide_input_weak_feedback_tail_active_load_flat.ext - technology: sky130A

.subckt sky130_latch_precharge_wide_input_weak_feedback_tail_active_load_flat out_p
+ out_n sense_p sense_n tail reset vdd vss eval
X0 out_p out_n tail VSUBS sky130_fd_pr__nfet_01v8 ad=3 pd=7.4 as=2.76 ps=7 w=1.2 l=1.2
X1 out_n out_p vdd_active vdd_active sky130_fd_pr__pfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X2 out_p sense_p tail VSUBS sky130_fd_pr__nfet_01v8 ad=16.8 pd=17.6 as=15.6 ps=17.2 w=6 l=0.6
X3 out_n sense_n tail VSUBS sky130_fd_pr__nfet_01v8 ad=16.8 pd=17.6 as=15.6 ps=17.2 w=6 l=0.6
X4 out_n out_p tail VSUBS sky130_fd_pr__nfet_01v8 ad=3 pd=7.4 as=2.76 ps=7 w=1.2 l=1.2
X5 out_n reset vdd w_12400_300# sky130_fd_pr__pfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X6 tail eval vss VSUBS sky130_fd_pr__nfet_01v8 ad=16.8 pd=17.6 as=15.6 ps=17.2 w=6 l=0.6
X7 out_p out_n vdd_active vdd_active sky130_fd_pr__pfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X8 out_p reset vdd w_12400_300# sky130_fd_pr__pfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
C0 tail sense_n 0.19827f
C1 out_n w_12400_300# 0.70572f
C2 vss eval 0.04634f
C3 out_p vdd_active 4.31746f
C4 out_p tail 3.65794f
C5 vss out_p 0.1661f
C6 vdd w_12400_300# 1.53672f
C7 eval out_n 0.02298f
C8 out_p w_12400_300# 0.76428f
C9 out_n sense_n 0.06074f
C10 vdd out_n 0.07263f
C11 out_p sense_p 0.05301f
C12 out_p out_n 1.99225f
C13 reset w_12400_300# 4.03573f
C14 eval out_p 0.04062f
C15 out_n reset 0.05967f
C16 vss tail 0.19272f
C17 out_p sense_n 0.00703f
C18 vdd out_p 0.28588f
C19 tail sense_p 0.19338f
C20 out_n vdd_active 5.52673f
C21 out_n tail 2.60214f
C22 vdd reset 0.20878f
C23 out_p reset 0.07615f
C24 eval tail 0.09415f
C25 vss out_n 0.06009f
C26 vdd VSUBS 0.90789f
C27 tail VSUBS 18.87666f
C28 vss VSUBS 0.75002f
C29 out_p VSUBS 6.5951f
C30 w_12400_300# VSUBS 30f
C31 vdd_active VSUBS 64.1063f
.ends

